US08017775B2
2,2,4-Trimethyl-1,2-dihydro-6-oxa-1,7-diazachrysen-5-one (Reference Compound No. 1-3)
In a pressure tube, 8-amino-4-azabenzo[c]chromen-6-one (Reference Compound No. 1-3-(5), 258 mg, 1.21 mmol) was dissolved in acetone (10 mL), then iodine (123 mg, 0.48 mmol) was added thereto, then the pressure tube was sealed, and then the reaction mixture was stirred at 105° C. for 1 day. After cooling down, the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled reference compound (82.5 mg) as a yellow solid. (Yield 23%)

reactant | 8-amino-4-azabenzo[c]chromen-6-one | NC=1C=CC2=C(C(OC3=NC=CC=C23)=O)C1 | C12H8N2O2
reactant | iodine | 0.48 mmol, 123 mg | II | I2
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 2,2,4-Trimethyl-1,2-dihydro-6-oxa-1,7-diazachrysen-5-one | 82.5 mg, Yield 23% | CC1(NC2=CC=C3C4=CC=CN=C4OC(C3=C2C(=C1)C)=O)C | C18H16N2O2
